* C:\Users\E\Documents\GitHub\ECEN-2270\Lab_3A.asc
C1 DCsupply DCgnd 47µ
Q1 DCsupply B1 DC1 0 FZT849
Q3 DCgnd B1 DC1 0 2N2905A
Q2 DCsupply B2 DC2 0 FZT849
Q4 DCgnd B2 DC2 0 2N2905A
.model NPN NPN
.model PNP PNP
.lib C:\Users\E\Documents\LTspiceXVII\lib\cmp\standard.bjt
.backanno
.ends Lab_3A
.end
