* C:\Users\VRcade\Documents\GitHub\csci\ECEN-2270\Lab5\Lab5B3.asc
E1 Vxmtr 0 V0 0 5
E2 Vin 0 V1 0 .02
E3 V1b 0 V2 0 .5
E4 Vecho 0 V3 0 5
V1 V3 0 wavefile=HC_SR04_sample001b.wav chan=3
V2 V0 0 wavefile=HC_SR04_sample001b.wav chan=0
V3 V1 0 wavefile=HC_SR04_sample001b.wav chan=1
V4 V2 0 wavefile=HC_SR04_sample001b.wav chan=2
.tran 8m uic
.backanno
.end
