* C:\Users\VRcade\Documents\GitHub\csci\ECEN-2270\Lab5\Lab5B4.asc
V1 Vcc 0 5
C1 Vcc 0 1µ
C2 VGnd 0 10n
R1 VGnd 0 10k
R2 VGnd Vcc 10k
V2 NC_01 0 AC 5m
R3 N005 Vin 10k
C3 N001 N005 10n
R4 V1d N001 56k
R5 N002 V1d 6k2
XU1 VGnd N001 Vcc 0 V1d level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=20m rail=0.1 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 VGnd N004 Vcc 0 V1c level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=20m rail=0.1 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 VGnd N003 Vcc 0 V1b level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=20m rail=0.1 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 N007 N008 Vcc 0 N009 level.2 Avol=1Meg GBW=3Meg Slew=2.4Meg ilimit=20m rail=0.1 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R6 0 N002 1k
C4 N004 N002 1n
C5 V1c N002 1n
R7 V1c N004 75k
R8 N006 V1c 7k5
C6 N003 N006 10n
R9 V1b N003 75k
R10 N007 V1b 4k7
R11 Signal N007 120k
R12 Signal Vcc 10k
R13 0 Slice 3k9
R14 N009 Slice 10k
R15 N008 0 3Meg3
R16 VGnd N008 120k
R17 N008 Threshold 75k
C7 N008 0 10n
V3 Threshold 0 0
XX1 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 Vin NC_08 lab5b3

* block symbol definitions
.subckt lab5b3 V0 V1 V1b V2 V3 Vecho Vin Vxmtr
E1 Vxmtr 0 V0 0 5
E2 Vin 0 V1 0 .02
E3 V1b 0 V2 0 .5
E4 Vecho 0 V3 0 5
V1 V3 0 wavefile=HC_SR04_sample001b.wav chan=3
V2 V0 0 wavefile=HC_SR04_sample001b.wav chan=0
V3 V1 0 wavefile=HC_SR04_sample001b.wav chan=1
V4 V2 0 wavefile=HC_SR04_sample001b.wav chan=2
.ends lab5b3

* .ac dec 1000 10k 100k
.tran 8m uic
.lib UniversalOpamps2.sub
.backanno
.end
