* C:\Users\E\Documents\LTspiceXVII\ECEN 2270\Lab4\Wave_tri.asc
V1 Vcc 0 5
C1 Vcc 0 47µ
C2 Vcc 0 0.1µ
XU1 0 Vtri Vout Vcc N002 Vtri N001 Vcc NE555
C3 N002 0 100n
C4 Vtri 0 100n
I1 Vcc Vtri 66.6µ
I2 Vtri N001 133µ
D1 N001 Vtri 1N914
.model D D
.lib C:\Users\E\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 205m 5m uic
.lib NE555.sub
.backanno
.end
